US09376398B2
(i) 4-[3-(tert-Butyldimethylsilyloxy)propoxy]-2-methoxybenzaldehyde
The mixture of 4-hydroxy-2-methoxybenzaldehyde (10.0 g), (3-bromopropoxy)-tert-butyldimethylsilane (25.0 g), and potassium dicarbonate (13.6 g) in DMF (100 mL) was stirred at RT for 5 h. The mixture was diluted with water and extracted with EtOAc. And the combined organic solutions were washed with water and brine, dried and concentrated. The residue was purified by silica gel chromatography eluting with hexane/EtOAc to give 21.3 g of the subtitle compound as a yellow oil [as a mixture with (3-bromopropoxy)-tert-butyldimethylsilane].

reactant | 4-hydroxy-2-methoxybenzaldehyde | 10.0 g | OC1=CC(=C(C=O)C=C1)OC | C8H8O3
reactant | (3-bromopropoxy)-tert-butyldimethylsilane | 25.0 g | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
reactant | potassium dicarbonate | 13.6 g | C(=O)([O-])OC(=O)[O-].[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-[3-(tert-Butyldimethylsilyloxy)propoxy]-2-methoxybenzaldehyde | 21.3 g | [Si](C)(C)(C(C)(C)C)OCCCOC1=CC(=C(C=O)C=C1)OC | C17H28O4Si
